US05736568
A solution of 4-chlorophenol (25.72 g), N,N,N',N'-tetramethyldiaminomethane (27.2 ml) and 1,4-dioxane (250 ml) was heated on a steam bath for 16 hours. The mixture was evaporated to dryness and the residue was dissolved in 2M hydrochloric acid, washed with dichloromethane, basified with concentrated sodium hydroxide solution and extracted with dichloromethane to give an oil which was distilled to give 4-chloro-2-(dimethylaminomethyl)phenol, b.p. 90°-97° C. at 0.26 mbar.

reactant | 4-chlorophenol | 25.72 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | N,N,N',N'-tetramethyldiaminomethane | 27.2 ml | CN(C)CN(C)C | C5H14N2
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(dimethylaminomethyl)phenol | ClC1=CC(=C(C=C1)O)CN(C)C | C9H12ClNO
